* Z:\mnt\design.r\spice\examples\2930.asc
XU1 N006 N003 N001 N010 _RST _MR 0 N011 N009 N004 N002 N008 LTC2930
R5 N008 N007 1400K
R6 N008 0 100K
R3 N006 0 100K
R4 N006 N005 1020K
V1 N001 0 PWL(0 0 5 5 15 5 15.0001 4 16 4 16.0001 5)
V3 N003 0 PWL(0 0 2.5 2.5 19 2.5 19.0001 1.5 20 1.5 20.0001 2.5)
V4 N004 0 PWL(0 0 1.8 1.8 21 1.8 21.0001 .8 22 .8 22.0001 1.8)
V5 N005 0 PWL(0 0 6 6 23 6 23.0001 5 24 5 24.0001 6)
V6 N007 0 PWL(0 0 8 8 25 8 25.0001 7 26 7 26.0001 8)
R1 N009 N011 59K
R2 N011 0 40.2K
C1 N010 0 1500p
V7 _MR 0 PULSE(5 0 10 1p 1p 2)
V2 N002 0 PWL(0 0 3.3 3.3 17 3.3 17.0001 2.3 18 2.3 18.001 3.3)
.tran 30
.lib LTC2930.sub
.backanno
.end
